US07078428B2
A solution of 3.2 cm3 of isobutylamine in 3 cm3 of toluene is added to a suspension of 5.2 g of phthalic anhydride in 50 cm3 of toluene, with stirring. The reaction mixture is heated at a temperature in the region of 60° C. for 1 hour, and then at a temperature in the region of 100° C. for 2 hours. Dean-Stark apparatus is then installed on the reactor and the reaction mixture is heated at a temperature in the region of 130° C. for 2 hours, after which it is cooled to a temperature in the region of 20° C. The reaction mixture is concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is taken up in 50 cm3 of saturated sodium bicarbonate solution and extracted twice with 75 cm3 of dichloromethane. The organic extracts are combined, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 20° C. 6.5 g of N-isobutylphthalimide are thus obtained in the form of a white solid melting at 92° C.

reactant | isobutylamine | 3.2 cm3 | C(C(C)C)N | C4H11N
reactant | phthalic anhydride | 5.2 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 3 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 cm3 | C1(=CC=CC=C1)C | C7H8
product | N-isobutylphthalimide | 6.5 g | C(C(C)C)N1C(C=2C(C1=O)=CC=CC2)=O | C12H13NO2
